US06008379
Synthesis of 1-Fluoronaphth-2-yl Boronic Acid (11)
1-fluoro naphthalene (14.61 g, 100 mmol, Aldrich Chemical) was dissolved in dry THF (50 mL) and cooled to -78° C. Then, a sec-butyl lithium solution (1.3 M in hexane, 100 mL) was added to the mixture over a period of 5 minutes. This mixture was stirred for 20 minutes at -78° C., then trimethylborate (15 mL, 132 mmol, Aldrich Chemical) was added. Stirring was continued at -78° C. for 15 minutes followed by stirring at room temperature for 30 minutes. The reaction was quenched by adding 100 mL of a 3:1 mixture of AcOH: H2O and stirred overnight at room temperature. Next, 500 mL of a 1:1 mixture of ethyl acetate and water was added. The organic layer was washed with 10% HCl (200 mL×1), water (200 mL×2), and brine (100 mL), dried over sodium sulfate, filtered, and solvent was removed to yield 18 grams of a white solid. This material was purified by silica-gel chromatography (350 grams of silica gel, ethyl acetate-hexane 1:1 mobile phase) to yield 16.3 g of the title compound (86%).

reactant | 1-fluoro naphthalene | 100 mmol, 14.61 g | FC1=CC=CC2=CC=CC=C12 | C10H7F
reactant | sec-butyl lithium | 1.3 M, 100 mL | C(C)(CC)[Li]
reactant | trimethylborate | 132 mmol, 15 mL | COB(OC)OC | C3H9BO3
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1-Fluoronaphth-2-yl Boronic Acid | 18 grams | FC1=C(C=CC2=CC=CC=C12)B(O)O | C10H8BFO2
